US07645784B2
2-(1H-Benzimidazol-1-yl)-N-(4-tert-butylphenyl)acetamide
The title compound was synthesised according to the procedure described in Example 94 from 1H-benzoimidazole and 2-bromo-N-(4-tert-butyl-phenyl)-acetamide. The latter was synthesized from bromoacetyl bromide and 4-tert-butyl-aniline. Calculated for C19H21N3O m/z: 307.3, found 308.4 [M+H]+.

reactant | 1H-benzoimidazole | N1C=NC2=C1C=CC=C2 | C7H6N2
reactant | 2-bromo-N-(4-tert-butyl-phenyl)-acetamide | BrCC(=O)NC1=CC=C(C=C1)C(C)(C)C | C12H16BrNO
reactant | bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 4-tert-butyl-aniline | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
product | 2-(1H-Benzimidazol-1-yl)-N-(4-tert-butylphenyl)acetamide | N1(C=NC2=C1C=CC=C2)CC(=O)NC2=CC=C(C=C2)C(C)(C)C | C19H21N3O
